US06949542B2
(2′-Fluoro-3-{3-[3-(6-methyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-biphenyl-4-yl)-carbamic acid tert-butyl ester
The title compound was prepared from (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert-butyl ester [CAS-No. 335255-65-7] (227 mg, 0.75 mmol) and 3-[3-(6-methyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K4) (234 mg, 0.75 mmol) according to the general procedure M. Obtained as a yellow solid (347 mg).

reactant | (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert-butyl ester | 0.75 mmol, 227 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)N)=O | C17H19FN2O2
reactant | 3-[3-(6-methyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 234 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)C)=O | C19H21NO3
product | (2′-Fluoro-3-{3-[3-(6-methyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-biphenyl-4-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)C)=O)=O | C32H30FN3O4
